US09238656B2
(1S,2S,3R,4R)-3-[6-Bromo-2-(2-chloro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXLIX)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75 mg, 0.22 mmol), 2-Chlorobenzaldehyde (34.3 mg, 0.244 mmol), and Ammonium acetate (34.2 mg, 0.444 mmol) were reacted to produce 50.82 mg (50%) of the title compound. (300 MHz, DMSO-d6) 13.16 (s, 1H), 8.07 (s, 1H), 7.84 (m, 1H), 7.72 (s, 1H), 7.64 (m, 1H), 7.52 (m, 2H), 7.20 (s, 1H), 7.14 (d, J=9 Hz, 1H), 6.29 (s, 2H), 5.21 (t, J=17 Hz, 8.5 Hz, 1H), 2.86 (s, 1H), 2.77 (s, 1H), 2.57 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS=460 (M+H), HPLC: 2.46 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.22 mmol, 75 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 2-Chlorobenzaldehyde | 0.244 mmol, 34.3 mg | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | Ammonium acetate | 0.444 mmol, 34.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(2-chloro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 50.82 mg, 50% | BrC=1C(=C2C(=NC1)NC(=N2)C2=C(C=CC=C2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H17BrClN5O
